US08084448B2
B. [3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenoxy]-acetic Acid
The title compound is prepared from N-(aminosulfonyl)-N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)glycine analogous to Example 295, steps F and G with the modification of using two equivalents of potassium t-butoxide in step F: mp=185-188° C.; 1H NMR (DMSO-d6)δ 9.87 (br s, 1H), 7.22 (d, J=8.6 Hz, 1H), 6.43 (d, J=2.8 Hz, 1H), 6.38 (dd, J=8.8, 2.8 Hz, 1H), 4.62 (s, 2H), 4.32 (s, 2H); (M−1)−=301.

reactant | N-(aminosulfonyl)-N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)glycine | NS(=O)(=O)N(CC(=O)O)C1=C(C=C(C=C1)OCC(OCC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C22H30N2O8SSi
reactant | potassium t-butoxide | two equivalents | CC(C)([O-])C.[K+]
product | [3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenoxy]-acetic Acid | OC=1C=C(OCC(=O)O)C=CC1N1S(NC(C1)=O)(=O)=O | C10H10N2O7S
